US08492371B2
(((cis-3-methoxycyclobutyl)methoxy)methyl)benzene
To a solution of cis-3-(benzyloxymethyl)cyclobutanol (Albany Molecular, 0.76 g, 4.0 mmol) in THF (10 mL) at 0° C. was added sodium hydride (0.47 g, 11.9 mmol). The mixture was stirred at 0° C. for 15 minutes then iodomethane (0.37 mL, 5.9 mmol) was added. The mixture was stirred for 5 minutes then the ice-bath was removed and the mixture was stirred at ambient temperature for 16 hours. The mixture was quenched with 5 mL saturated, aqueous NaHCO3 and diluted with 5 mL EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (3×5 mL). The combined organics were dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure and purified via column chromatography (SiO2, 75% hexanes/EtOAc) to provide the title compound (0.69 g, 3.3 mmol, 85% yield). MS (DCI/NH3) m/z 207 (M+H)+.

reactant | cis-3-(benzyloxymethyl)cyclobutanol | 4.0 mmol, 0.76 g | C(C1=CC=CC=C1)OC[C@H]1C[C@H](C1)O | C12H16O2
reactant | sodium hydride | 11.9 mmol, 0.47 g | [H-].[Na+]
reactant | iodomethane | 5.9 mmol, 0.37 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (((cis-3-methoxycyclobutyl)methoxy)methyl)benzene | 3.3 mmol, 0.69 g, 85% yield | CO[C@H]1C[C@H](C1)COCC1=CC=CC=C1 | C13H18O2
